US08138347B2
a) 6-bromo-4-(1H-pyrazol-4-yl)quinoline
A mixture of 6-bromo-4-iodoquinoline (1.37 g, 4 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (852 mg, 4 mmol), dichloro-[1,1′bis(diphenylphosphino) ferrocene]palladium (II) dichloromethane adduct (162 mg, 0.2 mmol), 2 M potassium carbonate (6 mL), in dioxane (25 mL) was heated at 100° C. for 1.5 h and cooled to room temperature. The dioxane and water were separated and the dioxane evaporated to get the crude product which was purified on silica gel eluting with ethyl acetate/methanol, 0-3% methanol. A yield of the title compound (340 mg, 34%) was obtained. MS(ES)+ m/e 275 [M+H]+.

reactant | 6-bromo-4-iodoquinoline | 4 mmol, 1.37 g | BrC=1C=C2C(=CC=NC2=CC1)I | C9H5BrIN
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4 mmol, 852 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | potassium carbonate | 2 M, 6 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro-[1,1′bis(diphenylphosphino) ferrocene]palladium (II) dichloromethane adduct | 0.2 mmol, 162 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 6-bromo-4-(1H-pyrazol-4-yl)quinoline | 340 mg, 34% | BrC=1C=C2C(=CC=NC2=CC1)C=1C=NNC1 | C12H8BrN3
